US06235849B1
Synthesis of N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl) Propanesulfonamide/norbornene Carboxylic Acid Copolymer (40/60)
To a glass vial containing a stir bar was added under nitrogen atmosphere 13.04 g (0.069 mol.) of N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl) propanesulfonamide, 21.96 g (0.104 mol.) of trimethylsilyl ester of norbornene carboxylic acid, followed by 85 ml of toluene. The reaction mixture was purged with Argon for 10 minutes. To the reaction solution at room temperature was added via syringe the nickel catalyst solution in a monomer to catalyst ratio of 50/1. The catalyst solution was prepared inside the dry box by adding 1.7 g (3.49 mmol.) (CH3C6H4)Ni(PhF5)2 in 5 ml of toluene. The polymerization was allowed to stir for 6 hours after which the solution was diluted with tetrahydrofuran. The resulting polymer solution was treated first with preconditioned imidoacetic acid based Amberlite IRC-718 chelating resin, followed by Sulfonic acid based Amberlyst 18 ion exchange resin. The polymer solution is filtered, concentrated via rotary evaporation and precipitated into methyl t-butyl ether. The precipitated polymer was filtered, redissolved tetrahydrofuran and reprecipitated into methyl t-butyl ether. The precipitated polymer is filtered and dried overnight under reduced pressure. The overall yield of polymer was 12 g (35%). The polymer was further characterized using GPC, IR and NMR. IR and 1H NMR clearly indicated presence of sulfonamide and carboxylic acid group.

reactant | N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl) propanesulfonamide | 0.069 mol, 13.04 g | C12C(CC(C=C1)C2)CNS(=O)(=O)CCC | C11H19NO2S
reactant | norbornene carboxylic acid | C12(C=CC(CC1)C2)C(=O)O | C8H10O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
product | N-(bicyclo(2.2.1)hept-5-ene-2-ylmethyl) Propanesulfonamide norbornene Carboxylic Acid | C12C(CC(C=C1)C2)CNS(=O)(=O)CCC.C12(C=CC(CC1)C2)C(=O)O | InChI=1S/C11H19NO2S.C8H10O2/c1-2-5-15(13,14)12-8-11-7-9-3-4-10(11)6-9;9-7(10)8-3-1-6(5-8)2-4-8/h3-4,9-12H,2,5-8H2,1H3;1,3,6H,2,4-5H2,(H,9,10)
